US03954730
B. 1-Bromo-1-cyclohexanecarboxylic acid
35 g (0.275 mol) cyclohexanecarboxylic acid and 28.4 ml (0.548 mol) bromine with the addition of 3 g red phosphorus.

reactant | cyclohexanecarboxylic acid | 0.275 mol, 35 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | bromine | 0.548 mol, 28.4 ml | BrBr | Br2
product | 1-Bromo-1-cyclohexanecarboxylic acid | BrC1(CCCCC1)C(=O)O | C7H11BrO2
